Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left flank pain
 
Major Surgical or Invasive Procedure:
Suprarenal vein filter placed ___
 
History of Present Illness:
___ G1P1 w/likely antithrombin 3 deficiency presented to ___ 
at 14d postpartum with flank pain and is now being transferred 
to the ___ for IVC clot. Patient first presented to ___ on 
___ with back pain during which time she was found to have 
bilateral subsegmental PEs with pulmonary infarct. She notably 
had antithrombin level of 78 and antithrombin Ag of 55%. She was 
discharged at that time with Lovenox. She represented to ___ 
at 35 weeks gestation with chest pain, concerning for recurrent 
PE. She was started on heparin gtt and had no additional imaging 
given pregnancy. Her hospital course was complicated by 
preeclampsia and IUGR, and she had induced vaginal delivery at 
36wd1. She was discharged with Lovenox ___ BID and reports 
missing no doses prior to presentation.

Yesterday morning, patient developed acute-onset Left flank pain 
without a clear inciting event. She reports that it was ___. 
No SOB, chest pain, fever, ___ swelling. She presented to ___, 
where CT A/P showed a nonocclusive clot within the IVC extending 
approximately 10 cm from the level of the renal veins to 
approximately 3.5 cm above the bifurcation. She was initially 
admitted to OB. On the floor, patient was hemodynamically 
stable. Vascular surgery was consulted, and they recommended 
transfer to the ___ for close monitoring given PE risk. Per 
report, hematology was also notified, and they recommended 
heparin gtt with possible transition to Coumadin as an 
outpatient.

At the time of our meeting, patient reported no pain. She noted 
that she had a very mild headache yesterday which has also 
resolved. She denies any chest pain, SOB, ___ swelling, changes 
to her urine, n/v. She does not take any estrogen-containing 
medications.

REVIEW OF SYSTEMS:  
(+) Per HPI  

 
Past Medical History:
 
PAST MEDICAL HISTORY:
-Possible AT3 deficiency
-History of subsegmental pulmonary emboli c/b pulmonary 
infarction
-History of Preeclampsia
-History of IUGR
-Migraine headaches

ObHx: G1, current
PMH:
- migraines w/o aura 
- lumbar radiculopathy
- pulmonary embolism: diagnosised ___ by CTA. LENIs on ___
neg. Patient on therapeutic Lovenox BID. 
PSH: denies

 
Social History:
___
Family History:
No family history of bleeding/clotting disorders. Grandmother 
with possible DM.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: 98.1; 82; 110/93; 17; 93% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly 
GU: No flank/CVA tenderness
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Warm, dry
NEURO: CNII-XII grossly intact
ACCESS: PIVs

DISCHARGE PHYSICAL EXAM
=======================
Physical Exam on Discharge: 
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Heart: RRR
Lungs: CTA b/l
Abdomen: soft, non tender
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:24PM BLOOD WBC-4.5# RBC-4.04 Hgb-12.2 Hct-35.3 
MCV-87 MCH-30.2 MCHC-34.6 RDW-13.1 RDWSD-41.9 Plt ___
___ 10:24PM BLOOD ___ PTT-26.0 ___
___ 10:24PM BLOOD Plt ___
___ 10:24PM BLOOD ___
___ 10:24PM BLOOD Glucose-92 UreaN-17 Creat-0.8 Na-136 
K-4.0 Cl-103 HCO3-22 AnGap-15
___ 10:24PM BLOOD Calcium-9.1 Phos-3.5 Mg-1.7

IMAGES
======

CT A/P (___):
Nonocclusive IVC thrombosis extending from approximately 3 cm 
above the common iliac vein confluence  approximately 10 cm 
superiorly to the level of the renal veins.  No extension of 
thrombus into the renal veins. 
  
IVC Filter Placement (___):
Successful deployment of a Denali retrievable IVC filter in a 
suprarenal 
location. Successful placement of two 4 ___ 10 ___ 
___ lysis catheters within the IVC at the level of the 
thrombus. Successful placement of a right internal jugular vein 
access 7 ___ 
triple-lumen central venous catheter.  The line is ready to use.

Abdominal venography (___):
1.  No significant change in the IVC thrombus.  Due to the 
patient's 
relatively low fibrinogen, lysis was not continued.  Given the 
eccentric 
nature of the thrombus is unclear whether it is acute versus 
chronic in 
nature. 

MRV Head w/o (___): 
No evidence of dural venous sinus thrombosis. Normal brain MRI.

MICRO
=====

Urine Culture (___):
 PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 ___

___ Course Labs:

___ 04:00PM BLOOD WBC-4.3 RBC-3.98 Hgb-11.9 Hct-35.5 MCV-89 
MCH-29.9 MCHC-33.5 RDW-13.2 RDWSD-42.8 Plt ___
___ 10:16PM BLOOD WBC-6.4 RBC-3.96 Hgb-11.8 Hct-35.0 MCV-88 
MCH-29.8 MCHC-33.7 RDW-13.1 RDWSD-42.7 Plt ___
___ 04:46AM BLOOD WBC-5.6 RBC-4.02 Hgb-11.9 Hct-35.4 MCV-88 
MCH-29.6 MCHC-33.6 RDW-13.1 RDWSD-42.0 Plt ___
___ 11:30PM BLOOD WBC-5.4 RBC-3.90 Hgb-11.7 Hct-34.8 MCV-89 
MCH-30.0 MCHC-33.6 RDW-13.1 RDWSD-42.8 Plt ___
___ 02:32PM BLOOD WBC-5.5 RBC-4.22 Hgb-12.6 Hct-37.3 MCV-88 
MCH-29.9 MCHC-33.8 RDW-13.2 RDWSD-42.9 Plt ___
___ 08:50AM BLOOD ___ PTT-25.4 ___
___ 04:00PM BLOOD ___ PTT-150* ___
___ 10:16PM BLOOD ___ PTT-27.8 ___
___ 04:46AM BLOOD ___ PTT-32.6 ___
___ 07:20AM BLOOD ___ PTT-64.1* ___
___ 02:32PM BLOOD ___ PTT-61.3* ___
___ 10:10AM BLOOD ___ PTT-69.5* ___
___ 08:40AM BLOOD ___ PTT-75.0* ___
___ 06:25AM BLOOD ___ PTT-77.4* ___
___ 05:56AM BLOOD ___ PTT-86.7* ___
___ 09:10AM BLOOD ___ PTT-98.9* ___
___ 07:30AM BLOOD ___ PTT-94.4* ___
___ 06:00AM BLOOD ___ PTT-96.1* ___
___ 07:15AM BLOOD ___ PTT-98.7* ___
___ 08:50AM BLOOD ___ 11:21AM BLOOD ___ 04:00PM BLOOD ___ 07:43PM BLOOD ___ 10:16PM BLOOD ___ 01:40AM BLOOD ___ 04:46AM BLOOD ___
___ 08:05AM BLOOD ___
___ 04:00PM BLOOD ___
___ 08:50AM BLOOD AT-103
___ 11:21AM BLOOD AT-190*
___ 10:16PM BLOOD AT-147*
___ 04:00PM BLOOD Glucose-76 UreaN-13 Creat-0.6 Na-140 
K-3.9 Cl-105 HCO3-22 AnGap-17
___ 10:16PM BLOOD Glucose-81 UreaN-13 Creat-0.7 Na-137 
K-3.9 Cl-103 HCO3-24 AnGap-14
___ 04:46AM BLOOD Glucose-88 UreaN-12 Creat-0.7 Na-141 
K-4.0 Cl-107 HCO3-23 AnGap-15
___ 11:30PM BLOOD Glucose-91 UreaN-12 Creat-0.8 Na-139 
K-4.0 Cl-104 HCO3-21* AnGap-18
___ 04:46AM BLOOD ALT-13 AST-11 AlkPhos-94 TotBili-0.2
___ 04:00PM BLOOD Calcium-8.6 Phos-3.7 Mg-1.8
___ 10:16PM BLOOD Calcium-8.9 Phos-3.7 Mg-1.8
___ 04:46AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.8
___ 11:30PM BLOOD Calcium-8.8 Phos-3.6 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ with suspected antithrombin deficiency, with 
a pregnancy complicated by pulmonary embolism at 7 weeks, for 
which she was started on therapeutic Lovenox, and severe 
pre-eclampsia, who was re-admitted post partum with a 10cm 
inferior vena cava (IVC) thrombus and urinary tract infection.

She underwent catheter directed thrombolysis and placement of a 
suprarenal IVC filter on ___, with a repeat venogram ___ 
measuring significant residual clot without significant 
improvement from prior, good renal vein flow, and IVC flow 
around the clot.  She was started on a heparin drip with plans 
to transition to warfarin.

She was initially taken care of in the intensive care unit 
(___).  Subsequently, she was managed by the GYN service.  
Her hospital course was as follows:

*) IVC thrombus/antithrombin III deficiency
As mentioned above, Ms. ___ underwent ___ guided IVC filter 
placement with dual lumen catheter as well as continuous TPA 
infusion on ___.  She also received antithrombin III on ___.  
She was started on a heparin drip (monitored with serial PTTs) 
and started on coumadin on ___.  Her dose of coumadin was 
uptitrated and overlapped with her heparin drip for 5 days, 
until her INR was therapeutic for at least 2 days.  Her coumadin 
dose at discharge was 7.5 mg for an INR goal between ___.  

*) pre-eclampsia, severe
Ms. ___ had normal blood pressures during her stay.  She did 
complain of headaches, which she does have a history of since 
childhood.  MRI/MRV of her head to rule out venous sinus 
thrombosis, was normal.  Of note, she had already received 
magnesium in the intrapartum period and did not require any 
antihypertensives.

*) urinary tract infection
Ms. ___ was found to have a Proteus urinary tract infection, 
which was treated with ceftriaxone (___).

By ___, Ms ___ was asymptomatic with stable vital signs 
and reassuring labs, on her therapeutic dose of coumadin.  She 
was discharged home with instructions for post partum follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 110 mg SC Q12H 

 
Discharge Medications:
1.  Warfarin 7.5 mg PO DAILY16 
Please take at the same time every day. 
RX *warfarin 7.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
IVC thrombus
Antithrombin 3 deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a large clot in your 
inferior vena cava. You received an IVC filter, and were 
transitioned to a heparin drip. You are now on coumadin for a 
blood thinner. You are being discharge on coumadin. It is very 
important that you continue this medication and follow-up with 
the ___ and Dr. ___, as well as Dr. 
___.

You have also been scheduled to have lab draws twice weekly to 
check your INR level to make sure the Coumadin is at the right 
dose beginning on ___. Please call the hematology 
office at ___ if you have any questions or concerns. 
 
Followup Instructions:
___